US05843607
In a 1.5 liter flask equipped with a mechanical stirrer and a condenser were added glacial acetic acid (100 milliliters) and concentrated sulfuric acid (20 milliliters). Into this mixture, which was maintained at 10° C. with an ice bath, was added powdered cyclohexane-1,4-dione bisphenylhydrazone (22.0 grams) in small portions with stirring. After the aforementioned addition, the ice bath was removed and the mixture was allowed to warm to 23° C., and stirred for a further 10 minutes. Subsequently, the mixture was heated to about 65° C. (Centigrade throughout) until an exothermic reaction occurred. The reaction mixture was cooled with an ice bath, and within 5 minutes a light brown solid was formed. The reaction mixture was allowed to remain at room temperature, about 25° C., for about 18 hours, and filtered. The filtered cake was then washed with acetic acid, water, and then stirred in boiling methanol for 30 minutes before filtering and drying in vacuo for about 2 to 5 hours to provide 7.2 grams of pure 5,11-dihydroindolo[3,2-b]carbazole as pale yellow crystals.

reactant | sulfuric acid | 20 milliliters | S(O)(O)(=O)=O | H2O4S
reactant | cyclohexane-1,4-dione bisphenylhydrazone | 22.0 grams | C1(=CC=CC=C1)N(N=C1CCC(CC1)=O)C1=CC=CC=C1 | C18H18N2O
solvent | acetic acid | 100 milliliters | C(C)(=O)O | C2H4O2
product | 5,11-dihydroindolo[3,2-b]carbazole | 7.2 grams | C1=C2C(=CC=C1)NC=1C2=CC=2NC3=CC=CC=C3C2C1 | C18H12N2
